US07101880B2
Ethyl isothiocyanatoformate (5 g, 38.2 mmol) was dissolved in THF (50 mL) and cooled to 0° C. Morpholine (3.99 mL, 45.8 mmol) was added dropwise over 2 min. The reaction mixture was stirred for 3 h. The solvent was evaporated to give (morpholin-4-yl-carbothioyl)carbamic acid ethyl ester (8.3 g, 38 mmol) as a white solid.

reactant | Ethyl isothiocyanatoformate | 38.2 mmol, 5 g | N(=C=S)C(=O)OCC | C4H5NO2S
reactant | Morpholine | 45.8 mmol, 3.99 mL | N1CCOCC1 | C4H9NO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (morpholin-4-yl-carbothioyl)carbamic acid ethyl ester | 38 mmol, 8.3 g | C(C)OC(NC(=S)N1CCOCC1)=O | C8H14N2O3S
